* OVERALL BEST CANDIDATE: 00_Phase_2_60V_PoE_to_12V_Buck_5_1_g1_cand3_b2
* FITNESS SCORE: 0.8903
*
* Generated: 2026-06-02T21:36:19
* Constraint: Phase 2: 60V PoE to 12V (Buck - 5:1)
*   vin_min = 50
*   vin_max = 70
*   vout_target = 12
*   efficiency_target = 0.88
*   power_in = 100
* Candidate: 3 of 12
* Grouped name: g1_cand3
*
* 50V to 12V Buck, 100W
Vin in 0 50
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 100u
C1 out 0 470u
Rload out 0 1.44
Vgate gate 0 PULSE(0 12 0 1n 1n 9.62u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
