* OVERALL BEST CANDIDATE: 00_Phase_1_12V_to_36V_E_Bike_Boost_exact_1_3_g4_cand3_b4
* FITNESS SCORE: 0.9492
*
* Generated: 2026-06-04T15:11:51
* Constraint: Phase 1: 12V to 36V E-Bike (Boost - exact 1:3)
*   vin_min = 11
*   vin_max = 14
*   vout_target = 36
*   efficiency_target = 0.82
*   power_in = 45
* Candidate: 12 of 12
* Grouped name: g4_cand3
*
* 12V to 36V Boost
Vin in 0 12
L1 in sw 47u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 220u
Rload out 0 3.2
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
